"CScapNoiseV"
.source V1
.detector V_out
.lib C18.lib
.param C_s=0.1p W=66u L=180n ID=7.44m IG=0
C1 1 2 C value={C_s} vinit=0
V1 1 0 V value=0 noise=0 dc=0 dcvar=0
X1 2 0 out NM18_noise ID={ID} IG={IG} W={W} L={L}
.end